*****************************************************************
* NXP PSMN2R4-30YLD
*
* Polarity N-Channel
* Ratings 30V/2.400000E-003OHMS/100A
*
* Date Created Mon Jan 20 01:34:45 2014
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN2R4-30YLD DRAIN GATE SOURCE

LD DRAIN 5 2e-11
RLD2 DRAIN 5 0.0251327412287184
RLD1 5 4 5e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 0.981801357717194
LS SOURCE 8 6.3e-10
RLS2 SOURCE 8 0.791681348704628
RLS1 8 7 0.00024

RDS 7 4 30000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00136911453876852 TC=0.00551128505801702,2.2485478658405E-06
RBD 9 4 0.000767768315814888 TC=0.00551128505801702,2.2485478658405E-06
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 1.67426476868968e-09
RG 1 2 0.7808

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -2	1465.03

+ -1	1001.81

+ -0.5	769.574

+ -0.2	668.499

+ -0.1	666.207

+ 0	610.4682

+ 0.1	536.52896

+ 0.2	535.78472

+ 0.5	468.92024

+ 1	398.09228

+ 2	320.31124

+ 3	274.8838

+ 4	240.88712

+ 5	213.98912

+ 6	194.609

+ 8	173.19436

+ 10	163.67424

+ 12	158.77828

+ 15	154.66408

+ 16	153.67428

+ 20	151.07356



.MODEL MINT NMOS(Vto=2.25375709032409 Kp=4.515614e+002 Nfs=510000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=33 Ibv=2.500000E-004 Rs=1E-6 Is=1.36815063287479e-12
+ N=1 M=0.36 VJ=0.64 Fc=0.5 Cjo=3.1913212e-09 Tt=1.5304e-08)

.ENDS

